data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_182099_0,[C@@:1]([C:2]([H:13])([H:14])[H:15])([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])([N:6]([H:10])[H:11])[C:7]([N:8][C:4]([H:19])([H:20])[H:21])[H:12]>>[C@@:1]1([C:2]([H:13])([H:14])[H:15])([N:6]([H:10])[H:11])[C@@:7]([N:5]([C:3]([H:16])([H:17])[H:18])[H:9])([H:12])[N:8]1[C:4]([H:19])([H:20])[H:21],54.79894749997129
MR_686848_0,[C:1](/[C:4](=[C:3](\[N:2]([N:7]=[O:8])[H:9])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:6]([H:12])[H:13])[N:2]([H:9])[C:3]1([N:5]([H:10])[H:11])[N:7]=[O:8])([H:14])([H:15])[H:16],42.97308250000924
MR_572928_1,[C:1]12([C:3]([N:4]([H:11])[H:12])=[C:6]([H:14])[H:15])[C:5]([H:13])=[C:2]([O:8][H:10])[N:9]1[O:7]2>>[c:1]1([C:3]([N:4]([H:11])[H:12])=[C:6]([H:14])[H:15])[c:5]([H:13])[c:2]([O:8][H:10])[n:9][o:7]1,15.390692499986043
MR_195427_1,[C:1]([N:3]1[C:4]([C:2]([H:12])([H:13])[H:14])([O:5][H:7])[N:6]1[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:3](/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6]\[H:8])[O:5][H:7])([H:9])([H:10])[H:11],62.0283749999814
MR_140380_1,[C:1](/[C:5]([N:3](/[C:4]([N:6]([H:11])[H:12])=[N:9]/[H:13])[O:8][H:10])=[C:7](/[C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[C:5](=[N:3]\[O:8][H:10])[C:7]([C:2]([H:18])([H:19])[H:20])(/[C:4]([N:6]([H:11])[H:12])=[N:9]/[H:13])[H:14])([H:15])([H:16])[H:17],62.802710000023865
MR_211498_0,[N:1]([C:2]([N:3]([H:8])[H:9])=[C:5]([H:12])[H:13])(/[C:4](=[N:6]/[H:10])[H:11])[H:7]>>[N:1](=[C:2](/[N:3]([H:8])[H:9])[C:5](/[C:4](=[N:6]/[H:10])[H:11])([H:12])[H:13])\[H:7],72.43609000002834
MR_420070_1,[C:1](=[C:2](\[N:6]=[N:5]\[O:3][H:7])[H:10])(\[O:4][H:8])[H:9]>>[C:1]1([O:4][H:8])([H:9])[C:2]([H:10])=[N:6][N:5]1[O:3][H:7],43.00571249996253
MR_124386_1,[C:1]([C:2]([O:4][O:5][H:7])=[O:6])([N:3]([H:8])[H:9])([H:10])[H:11]>>[C:1]([C:2](=[O:6])[H:11])([N:3]([H:8])[H:9])([O:4][O:5][H:7])[H:10],54.97966750001439
MR_4277_1,[C:1]([C:4]([C:2]([C:3]([O:6][H:8])([H:11])[H:12])([C:5]([H:15])([H:16])[H:17])[H:10])([H:13])[H:14])(=[O:7])[H:9]>>[C:1]1([O:7][H:8])([H:9])[C:4]([H:13])([H:14])[C:2]([C:5]([H:15])([H:16])[H:17])([H:10])[C:3]([H:11])([H:12])[O:6]1,38.27812749998501
MR_267408_0,[N:1](/[N:4]=[N:5]/[C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([N:4]1[C:3]([H:9])([H:10])[C:2]([H:8])=[N:5]1)([H:6])[H:7],43.86727000001663
MR_281634_0,[C:1](/[C:3](=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:7][H:8])[O:6][N:5]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@@:3]1([C@:4]([C:2]([H:14])([H:15])[H:16])([O:7][H:8])[H:10])[N:5]([H:9])[O:6]1)([H:11])([H:12])[H:13],71.61845750002385
MR_357667_0,[N:1](=[C:2](/[N:5](/[N:3]=[N:4]/[H:7])[H:8])[H:9])\[H:6]>>[N:1](=[C:2](/[N:4](/[N:3]=[N:5]/[H:8])[H:7])[H:9])\[H:6],44.71125750000809
MR_7697_0,[C@@:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])(/[N:7]=[C:6](/[N:5]([H:10])[H:11])[H:12])[H:9]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[N:7]\[C@:6]([N:4]([C:2]([H:13])([H:14])[H:15])[H:8])([N:5]([H:10])[H:11])[H:12])[H:9],63.58771250000373
MR_406238_1,[C:1]([C:3]([N:5]([H:8])[H:9])=[O:7])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:10])([H:11])[H:12]>>[C:1](=[C:3]([N:5]([H:8])[H:9])[O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:10])([H:11])[H:12],72.15998999997637
MR_545807_0,[C:1]([C:2](/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:9]/[H:12])([H:13])[H:14])([C:6]([C:4]([H:18])([H:19])[H:20])=[C:7]([H:21])[H:22])([O:8][H:10])[H:11]>>[C:1]([C:2]([C:5]([C:3]([H:15])([H:16])[H:17])([C:6]([C:4]([H:18])([H:19])[H:20])=[C:7]([H:21])[H:22])[N:9]([H:10])[H:12])([H:13])[H:14])(=[O:8])[H:11],52.88569999998643
MR_379219_2,[C:1](\[N:2]([H:7])[H:8])([C:4](=[O:6])[H:11])=[C:5](\[N:3]([H:9])[H:10])[H:12]>>[C:1]([N:2]([H:7])[H:8])([N:3]([H:9])[H:10])=[C:5]([C:4](=[O:6])[H:11])[H:12],7.513685000041477
MR_688837_2,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:14])([O:9][H:11])[H:13])[H:12])([O:7][H:10])=[O:8]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4](=[O:9])[H:13])[H:12])([C:5](=[C:6]([H:18])[H:19])[H:14])([O:7][H:10])[O:8][H:11],69.2841574999963
MR_257838_1,[C@:1](/[C:3]([N:4]([H:11])[H:12])=[N:8]/[H:13])(/[C:5](=[N:7]/[C:2]([H:15])([H:16])[H:17])[H:14])([O:6][H:9])[H:10]>>[C:1](=[C:5](\[N:7]([C:2]([H:15])([H:16])[H:17])/[C:3]([N:4]([H:11])[H:12])=[N:8]/[H:13])[H:14])(\[O:6][H:9])[H:10],68.30714000000185
MR_12136_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:5])[H:8])([O:4][H:6])[H:7]>>[C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:5])[H:7])([O:4][H:6])[H:8],57.08744000000749
MR_18221_0,[C:1]([C:2]([O:5][C:3](=[C:4]([H:11])[H:12])[H:7])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:5])[O:6][C:3](=[C:4]([H:11])[H:12])[H:7])([H:8])([H:9])[H:10],48.77369250002417
MR_687785_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[C:5]([H:17])[H:18])([O:7][O:6][O:8][H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:6][O:8][H:9])([O:7][C:4]([C:3]([H:14])([H:15])[H:16])=[C:5]([H:17])[H:18])[H:10],55.29718249996179
